Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
___ from ___ with acute PE  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo F with minimal PMH presented to ___ with severe 
right posterior lower chest pain which had been worsening over 
two days. Vitals on arrival 98.5, 116/73 with HR initially in 
the 120s decreasing to the ___ presumably with IVF and pain 
control. D-dimer ws markedly elevated on their assay and 
subsequent CTA of the chest showed bilateral PEs (large clot 
burden by report) with infarction of a segment of the right 
lung. Final reports not yet availble for viewing on careweb.  
.  
She was given 70mg SC lovenox in their ED at 3AM and dilaudid IV 
for pain control. Transfered directly to ___ 6 / CMED. 
Currently states that her pain is tolerable.  
.  
She has been on OCP for many years. No hx of prior clots of 
miscarriages. No hx of clots or miscarriages in family. She does 
note that she sprained her left ankle weeks ago and that it was 
initially in a soft cast.  
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. S/he denies recent fevers, chills or 
rigors. S/he denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
.  
 
Past Medical History:
none significant  
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. No family hx 
of miscarriages, autoimmunity or blood clots.  
 
Physical ___:
VS: 98.0, 114/80, 80, 16, 100%ra  
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP at clavicle  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No I/VI holosystolic murmur at RSB. No 
thrills, lifts. No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi. NO PLEURAL RUBS.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+ 
 
Pertinent Results:
___ 06:15AM BLOOD WBC-5.9 RBC-3.69* Hgb-10.9* Hct-31.9* 
MCV-87 MCH-29.5 MCHC-34.1 RDW-13.5 Plt ___
___ 04:45AM BLOOD WBC-6.3 RBC-3.46* Hgb-10.3* Hct-30.0* 
MCV-87 MCH-29.7 MCHC-34.3 RDW-13.7 Plt ___
___ 09:10AM BLOOD WBC-10.0 RBC-3.98* Hgb-11.4* Hct-34.4* 
MCV-86 MCH-28.6 MCHC-33.2 RDW-13.6 Plt ___
___ 06:15AM BLOOD ___ PTT-36.3* ___
___ 04:45AM BLOOD ___ PTT-33.1 ___
___ 09:10AM BLOOD ___ PTT-38.4* ___
___ 06:15AM BLOOD Glucose-79 UreaN-4* Creat-0.6 Na-142 
K-3.9 Cl-108 HCO3-26 AnGap-12
___ 04:45AM BLOOD Glucose-159* UreaN-4* Creat-0.5 Na-141 
K-3.5 Cl-110* HCO3-25 AnGap-10
___ 09:10AM BLOOD Glucose-77 UreaN-7 Creat-0.6 Na-139 K-3.9 
Cl-107 HCO3-25 AnGap-11
___ 06:15AM BLOOD Calcium-8.3* Phos-3.4 Mg-1.8
.
.
___     ___                       RESULT                 
     
___ CT/CT TORSO W/ W/O CONTRAST                            
     
 
     ___
      
     CT TORSO
      
     CLINICAL HISTORY:  Right rib and flank pain.
      
     TECHNIQUE:  CT of the torso was performed, with imaging of 
the chest
     obtained using pulmonary angiogram technique, and imaging 
of the
     abdomen and pelvis obtained both prior to and after the 
administration
     of IV contrast.  100 cc of Omnipaque-300 was administered 
for this
     examination.  Multiplanar reformations were also reviewed 
at the time
     of interpretation.
      
     No comparisons.
      
     FINDINGS:
      
     CTA CHEST:  Examination of vascular structures demonstrates 
bilateral
     pulmonary emboli, with a relatively large burden of 
thrombus seen
     predominantly within the bilateral lower lobe basal 
segments.  There
     is essentially occlusive appearance of right basilar lower 
lobe medial
     segment with consolidation peripheral to this suggesting 
the presence
     of a pulmonary infarct within this segment.  Thrombus is 
also seen
     proximally within the right middle lobe pulmonary artery, 
within the
     left lower lobe pulmonary artery, and with relative 
preservation of
     the upper lobe pulmonary arteries.
      
     CT CHEST WITH CONTRAST:
      
     Examination of soft tissue windows demonstrates no 
axillary,
     mediastinal, or hilar lymphadenopathy.  
      
     Examination of lung windows again demonstrates elevation in 
the right
     lower lobe basal posterior pulmonary artery segment, 
consistent with
     pulmonary embolism given the thrombus filling the blood 
vessels
     supplying this region.  No concerning pulmonary nodules are 
otherwise
     seen.  
      
     CT OF THE ABDOMEN WITHOUT AND WITH IV CONTRAST:
      
     The liver, gallbladder, pancreas, spleen, adrenal glands, 
and kidneys
     appear unremarkable.  There is no abdominal lymphadenopathy 
or free
     fluid.  
 
     PAGE 1               Signed Report                     
(CONTINUED)
                                          ___: ___
                                          ___: ___
                                          ___: ___ Age: 
___      Sex: F
                                          ___: ___ M.___., 
___
                                          ___: ___   Loc: 
G.ER    
                                          ___ Date: ___ 
Status: DEP ER
                                          Radiology No:  
 
 
 
 
___     ___                       RESULT                 
     
___ CT/CT TORSO W/ W/O CONTRAST                            
     
       
 
      
     CT OF THE PELVIS WITH ORAL AND IV CONTRAST:
      
     The uterus appears unremarkable.  No significant 
abnormality is seen
     in the region of the adnexae.  No gross abnormality is seen 
within the
     colon as visualized.  The bladder is unremarkable.
      
     Examination of osseous structures does not show lytic or 
sclerotic
     lesions concerning for malignancy.  No evidence of rib 
fracture, and
     particularly at the right lung base.  
      
     IMPRESSION:
     1.  BILATERAL PULMONARY EMBOLI AS DESCRIBED ABOVE, WITH A 
REASONABLY
     LARGE BURDEN OF THROMBUS PREDOMINANTLY WITHIN THE BILATERAL 
LOWER
     LOBES.  NOTE IS ALSO MADE OF CONSOLIDATION IN THE RIGHT 
LOWER LOBE
     POSTERIOR BASAL SEGMENT, SUGGESTIVE OF PULMONARY INFARCTION 
WITHIN
     THIS SEGMENT.  THIS LIKELY EXPLAINS THE PATIENT'S PAIN.
      
     2.  NO EVIDENCE OF RIB FRACTURE.
      
     3.  NO EVIDENCE OF RESIDUAL THROMBUS WITHIN THE VISUALIZED 
PORTIONS OF
     THE IVC, ILIAC VEINS, AND COMMON FEMORAL VEINS.
      
     A PRELIMINARY REPORT WAS PROVIDED BY ___. ___ ___. 
___ AT 2:30
     A.M.:  PATIENT ON ORAL CONTRACEPTIVES.  BILATERAL PULMONARY 
EMBOLISM,
     RIGHT WORSE THAN LEFT.  MULTIPLE FILLING DEFECTS JUST 
DISTAL TO THE
     MAIN RIGHT PULMONARY ARTERY. LEFT SEGMENTAL PULMONARY 
EMBOLUS.  WEDGE
     LIKE OPACIFICATION IN THE POSTERIOR BASAL SEGMENT OF RIGHT 
LOWER LOBE
     CONCERNING FOR INFARCT.  SMALL RIGHT PLEURAL EFFUSION.  NO 
KIDNEY
     STONE OR HYDRONEPHROSIS.
      
      
      
                    ** REPORT SIGNATURE ON FILE ___ **
                    Reported By: ___, MD
                    Signed By:   ___.
 
     CC: ___ M.D.
          
     Report Signed Time: ___ (___)
     Transcribed Date/Time: ___ (___)
     Transcriptionist: #GRAD.TP
 
     PAGE 2               Signed Report
.
.
.
Final Report 
REASON FOR ___: History of pulmonary embolism. Clinical concern 
for deep 
venous thrombosis. 
  
COMPARISON: None. 
  
TECHNIQUE: Grayscale and Doppler ultrasound images of bilateral 
lower 
extremity veins were obtained. 
  
FINDINGS: Bilateral common femoral veins, superficial femoral 
veins, 
popliteal veins demonstrate normal compressibility, flow, and 
augmentation.  
Bilateral posterior tibial and peroneal veins are patent. 
  
IMPRESSION: No deep venous thrombosis within bilateral lower 
extremities. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
___. ___ 
___: SAT ___ 3:23 ___ 
.
.
.
ECHO
Conclusions  
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). The estimated cardiac 
index is normal (>=2.5L/min/m2). The right ventricular cavity is 
mildly dilated with borderline normal free wall function. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. There is 
borderline pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

IMPRESSION: Mild right ventricular cavity enlargement with low 
normal free wall motion. Borderline pulmonary artery systolic 
hypertension. 

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.   
  Electronically signed by ___, MD, Interpreting 
physician ___ ___ 15:___ yo F on OCP and recent limited mobility of left leg with 
large bilateral PEs and pulmonary infarction.  
.  
# PE: Only discernible risk factor is OCP. Left ankle sprain 
resulted in some temporary limited mobility of that leg. No 
family hx. She was hemodynamically stable although initially 
tachycardic at OSH in setting of uncontrolled pain. On EKG, 
unclear whether RBBB is new, if so, would reflect RV strain. 
ECHO shows mild right ventricular cavity enlargement with low 
normal free wall motion. Borderline pulmonary artery systolic 
hypertension. LENIs were negative for DVT. The pt was started on 
lovenox 80 bid and coumadin 5 daily. She was discharged with an 
INR of 1.3 so this will need to followed up in a couple days 
with her PCP for which she has an appointment. She was 
instructed to stop using oral contraceptives and to never start 
smoking. Given this was a first time PE and she was using OCPs 
without a family history of clotting, a hypercoaguable workup 
was not performed, however, this may be warranted as an 
outpatient. She was also treated with prn dilaudid PO and 
standing tylenol/ibuprofen for her pain (due to infarction of a 
segment in the right lung).  
.  
# Anemia: likely due to acute setting, received large amount of 
IV fluids, also had poor PO intake, HCT up today to 31, was 
initially 34 on admission. Her HCT can be followed as an 
outpatient to determine whether she warrants a workup for 
anemia.

 
Medications on Admission:
OCP many years  
minocycline x 8 months 
 
Discharge Medications:
1. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.
Disp:*20 Tablet(s)* Refills:*0*
2. Docusate Sodium 50 mg/5 mL Liquid Sig: ___  PO BID (2 times a 
day): please take while taking dilaudid for constipation.
Disp:*qs 2 weeks qs 2 weeks* Refills:*1*
3. Enoxaparin 80 mg/0.8 mL Syringe Sig: One (1)  Subcutaneous 
Q12H (every 12 hours).
Disp:*20 * Refills:*1*
4. Ibuprofen 400 mg Tablet Sig: Two (2) Tablet PO Q8H (every 8 
hours): Please take for ___ days with food until pain subsides.
Disp:*30 Tablet(s)* Refills:*2*
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): please take while taking dilaudid for constipation.
Disp:*60 Tablet(s)* Refills:*0*
6. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours): do not take more than 4000mg per day. please take for 
___ days until pain subsides.
Disp:*50 Tablet(s)* Refills:*0*
7. Hydromorphone 2 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain: do not take while driving or 
performing any task requiring high levels of skill.
Disp:*40 Tablet(s)* Refills:*0*
8. Outpatient Lab Work
Please check ___, INR, PTT. Fax results to Dr. ___ at 
___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
pulmonary embolus likely secondary to oral contraceptive use

 
Discharge Condition:
afebrile, stable vitals, tolerating POs, ambulatory, pain 
controlled

 
Discharge Instructions:
You were admitted for pulmonary embolus or clots that were found 
in your lungs. Your vital signs and breathing was stable. You 
were treated with blood thinners, coumadin and lovenox which you 
will continue at home. You were also treated with tylenol, 
ibuprofen, and dilaudid for pain control. PLEASE STOP TAKING 
ORAL CONTRACEPTIVES. DO NOT START SMOKING, as this may pose an 
extra risk of clotting for you. 
.
Please take all medications as prescribed.
Please followup with all appointments.
Please do not hesitate to return to the hospital for any 
concerning symptoms at all.
 
Followup Instructions:
___